US04141902
In the same manner 1-bromomethyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine can be condensed with potassium cyanide in dimethylsulfoxide to give 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetonitrile.

reactant | 1-bromomethyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C17H12BrClN4
reactant | potassium cyanide | [C-]#N.[K+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-acetonitrile | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC#N)C3=CC=CC=C3)C1 | C18H12ClN5
